US09035073B2
Enantiomer 2 of 3-(3,5-difluorophenyl)-3-methoxy-1-methyl pyrrolidine
Preparation according to Example 16. (+3-(3,5-difluorophenyl)-3-methoxypyrrolidine (0.02 g, 0.094 mmol), formic acid (1 ml) and formaldehyde (40% solution in water, 1 ml) was heated at 85° C. for 5 h, workup according to preparation 16. MS m/z (relative intensity, 70 eV) 227 (M+, 5), 212 (32), 197 (28), 141 (45), 57 (bp).

reactant | 3-(3,5-difluorophenyl)-3-methoxypyrrolidine | 0.094 mmol, 0.02 g | FC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13F2NO
reactant | formaldehyde | 1 ml | C=O | CH2O
solvent | formic acid | 1 ml | C(=O)O | CH2O2
product | 3-(3,5-difluorophenyl)-3-methoxy-1-methyl pyrrolidine | FC=1C=C(C=C(C1)F)C1(CN(CC1)C)OC | C12H15F2NO
